Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Pelvic Organ prolapse 
 
Major Surgical or Invasive Procedure:
Robotic Assisted Supracervical hysterectomy
Bilateral Salpingo-oophorectomy
Sacrocolpopexy
Posterior Clporrhaphy
Cystoscopy

 
History of Present Illness:
Mrs. ___ is a ___ yo Gravida 5 Para 3023 who presents today 
in the office for a consultation requested by Dr. ___ 
___ vaginal prolapse. She is complaining of worsening 
prolapse over the past year. She has seen Dr. ___ and 
was still contemplating conservative options but has been
concerned recently regarding her vaginal spotting. She thinks it 
is rubbing against her underwear. She admits to daily periods of 
palpable prolapse.

She reports to occasional urgency incontinence. She voids ___ 
times per day and ___ times per night. She uses no pads per day. 
She admits to some urgency, she denies any dysuria and reports 
bladder emptying with normal flow. She denies any admits to 
hematuria, UTI's, kidney stones or pyelonephritis. She is 
otherwise without any other significant complaints.

 
Past Medical History:
PAST MEDICAL HISTORY:
  1. Raynaud's
  2. Osteopenia

PAST SURGICAL HISTORY
  1. Umbilical hernia  repair
  2. D&C x 2

PAST OB HISTORY
G5P3023
Vaginal: 3

PAST GYN HISTORY
She is Postmenopausal since ___
She admits to post-menopausal bleeding.
Her last PAP smear was in ___ and reportedly normal
 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
BP: 128/84
Heart Rate: 87
Weight: 138 (With Clothes)
Height: 65 (Patient Reported)

Neuro/Psych: Oriented x3, Affect Normal, NAD.
Nodes: No inguinal adenopathy.
Heart: No pedal edema
Lungs: Normal respiratory effort.
Abdomen: Non tender, Non distended, No masses, guarding or
rebound, No hepatosplenomegaly, No hernia.
Ext: No clubbing, cyanosis, edema.

Urethra meatus central, no prolapse.
Vagina: No lesions, Bladder non-tender, no masses appreciated.
Cervix: no lesions, no discharge
Uterus: non-tender
Adnexa: no masses non tender.

PHYSICAL EXAM ON DISCHARGE 
Vitals: VSS
Gen: NAD, A&O x 3, crepitus of chest and neck 
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP

 
Pertinent Results:
* Pathology Pending *
. 
___ 10:15PM BLOOD WBC-6.8 RBC-3.29* Hgb-10.3* Hct-31.3* 
MCV-95 MCH-31.3 MCHC-32.9 RDW-12.5 RDWSD-43.7 Plt ___
___ 07:00PM BLOOD WBC-7.4 RBC-3.24* Hgb-10.3* Hct-31.1* 
MCV-96 MCH-31.8 MCHC-33.1 RDW-12.5 RDWSD-43.4 Plt ___
___ 10:15PM BLOOD Neuts-85.3* Lymphs-10.1* Monos-4.1* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-5.79 AbsLymp-0.69* 
AbsMono-0.28 AbsEos-0.00* AbsBaso-0.01
___ 07:00PM BLOOD Neuts-88.3* Lymphs-6.9* Monos-4.2* 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-6.48* AbsLymp-0.51* 
AbsMono-0.31 AbsEos-0.01* AbsBaso-0.01
___ 10:15PM BLOOD Glucose-129* UreaN-8 Creat-0.7 Na-140 
K-4.3 Cl-105 HCO3-26 AnGap-13
___ 05:45PM URINE Color-Straw Appear-Clear Sp ___
___ 05:45PM URINE Blood-LG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM 
___ 05:45PM URINE RBC-88* WBC-6* Bacteri-FEW Yeast-NONE 
Epi-1
___ 05:45PM URINE Mucous-RARE
.
URINE CULTURE (Final ___:    <10,000 organisms/ml
.
Blood Culture Pending x2
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing a robotic assisted supracervical hysterectomy, 
bilateral salpingo-oophorectomy, sacrocolpopexy, posterior 
colporrhaphy, revision of upper abdominal scar, and cystoscopy 
for pelvic organ prolapse. Please see the operative report for 
full details.
.
Her post-operative course was as follows. Immediately post-op, 
her pain was controlled with oral oxycodone, ibuprofen, and 
acetaminophen. Her diet was advanced and she was able to 
tolerate a regular diet without nausea or vomiting. 
. 
On post-operative day 1, her urine output was adequate so a 
urogyn trial of void was performed. The results are as follows: 
300cc backfill, 20cc void, 193cc on PVR. Patient declined 
insertion of foley and time was allowed for her to void 
spontaneously. She then voided 200cc with 355cc on PVR. Her next 
void was 300cc with 100cc on PVR. She was then able to void 
spontaneously for the remainder of her hospitalization. 
. 
On POD 1, patient spiked a fever of 102.0 while tachycardic and 
O2 saturation of 94% on room air. An infectious workup was 
performed with labs, urinalysis, and blood culture, and chest 
xray. Patient defervesced and patient remained afebrile for the 
remainder of her hospitalization. 
.
By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
calcium, vit D, colace, valacyclovir
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN pain 
Do not exceed 4g acetaminophen in 24 hours  
RX *acetaminophen 500 mg ___ tablet(s) by mouth q6h prn Disp 
#*40 Tablet Refills:*2
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*50 Capsule Refills:*0
3. Ibuprofen 600 mg PO Q6H:PRN pain 
Take with food  
RX *ibuprofen 600 mg 1 tablet(s) by mouth q6h prn Disp #*40 
Tablet Refills:*2
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
Do not drive or drink alcohol while taking medication  
RX *oxycodone 5 mg ___ tablet(s) by mouth q4h prn Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pelvic Organ Prolapse 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___